*
.SUBCKT 1PS66SB62 1 2 3 4 5 6
*
* The Resistors do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
*
R1 1 6 5.729E+08
D1 1 6 1PS66SB62
R2 2 5 5.729E+08
D2 2 5 1PS66SB62
R3 3 4 5.729E+08
D3 3 4 1PS66SB62
*
.MODEL 1PS66SB62 D
+ IS = 4E-10
+ N = 0.9529
+ BV = 43
+ IBV = 0.0001
+ RS = 131.3
+ CJO = 3.834E-13
+ VJ = 0.08942
+ M = 0.08687
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
