*
.SUBCKT 1PS70SB84 1 2 3
*
R1 1 3 3E+07
D1 1 3 1PS70SB84
R2 3 2 3E+07
D2 3 2 1PS70SB84  
*
* The resistors do not reflect 
* physical devices. Instead they
* improve modeling in the reverse 
* mode of operation.
*
.MODEL 1PS70SB84 D
+ IS = 1.042E-08
+ N = 1.029
+ BV = 20
+ IBV = 0.001
+ RS = 5.567
+ CJO = 1.029E-12
+ VJ = 0.2159
+ M = 0.1731
+ FC = 0
+ TT = 0
+ EG = 0.69
+ XTI = 2
.ENDS



