*
.SUBCKT 1PS75SB45 1 2 3
*
* The resistors do not reflect 
* physical devices.  Instead they
* improve modeling in the reverse
* mode of operation.
*
R1 1 3 8E+08 
D1 1 3 1PS75SB45
R2 2 3 8E+08
D2 2 3 1PS75SB45 
.MODEL 1PS75SB45 D( 
+ IS = 9.114E-09 
+ N = 1.006 
+ BV = 45 
+ IBV = 7.8E-05 
+ RS = 4.563 
+ CJO = 3.895E-12 
+ VJ = 0.3192 
+ M = 0.4008 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS
*
