*
.SUBCKT 1PS76SB21 1 2 
* The Resistor R1 does not reflect
* a physical device.  Instead it 
* improves modeling in the 
* reverse mode of operation.
R1 1 2 5.9E+06 
D1 1 2 1PS76SB21 
.MODEL 1PS76SB21 D (
+ IS = 1.009E-06 
+ N = 1.017 
+ BV = 44 
+ IBV = 0.001611 
+ RS = 0.6578 
+ CJO = 3.76E-11 
+ VJ = 0.274 
+ M = 0.4381 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 )
.ENDS
*
