*
.SUBCKT 1PS79SB10 1 2 
* The Resistor R1 does not reflect a
* physical device.  Instead it improves
* modeling in the reverse mode of
* operation.
R1 1 2 3.5E+07 
D1 1 2 1PS79SB10 
* 
.MODEL 1PS79SB10 D( 
+ IS = 2.36E-07 
+ N = 1.009 
+ BV = 33 
+ IBV = 0.001 
+ RS = 2.633 
+ CJO = 9.53E-12 
+ VJ = 0.2034 
+ M = 0.3811 
+ FC = 0.6435 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS
*
