*
.SUBCKT 1PS79SB30 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 9.5E+07
D1 1 2 1PS79SB30
*
.MODEL 1PS79SB30 D
+ IS = 8E-08
+ N = 1.012
+ BV = 45
+ IBV = 0.0001
+ RS = 0.8243
+ CJO = 2.515E-11
+ VJ = 0.4182
+ M = 0.4941
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
.ENDS
*

