*
.SUBCKT 1PS79SB31 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 4.771E+06
D1 1 2 1PS79SB31
*
.MODEL 1PS79SB31 D
+ IS = 9.539E-07
+ N = 1.007
+ BV = 35
+ IBV = 4E-05
+ RS = 0.4678
+ CJO = 3.518E-11
+ VJ = 0.3193
+ M = 0.4687
+ FC = 0.5
+ TT = 0
+ EG = 0.69
+ XTI = 2
.ENDS
