*
.SUBCKT BAS40-07 1 2 3 4
*
* The resistor does not reflect a
* physical devices.  Instead it improves
* modeling in the reverse mode of
* operation.
*
R1 4 1 8E+08
D1 4 1 BAS40-07
R2 3 2 8E+08
D2 3 2 BAS40-07
*
.MODEL BAS40-07 D
+ IS = 8.361E-09
+ N = 1.003
+ BV = 44
+ IBV = 8E-07
+ RS = 5.031
+ CJO = 3.8E-12
+ VJ = 0.1119
+ M = 0.2915
+ FC = 1
+ EG = 0.69
+ XTI = 2
.ENDS
*
