*
.SUBCKT BAS70-07 1 2 3 4
* The Resistors do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
R1 4 1 1.409E+09 
D1 4 1 BAS70
R2 3 2 1.409E+09 
D2 3 2 BAS70
.MODEL BAS70 D( 
+ IS = 3.22E-09 
+ N = 1.018 
+ BV = 77
+ IBV = 1.67E-07 
+ RS = 20.89 
+ CJO = 1.655E-12 
+ VJ = 0.349
+ M = 0.3583
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS
*
