*
.SUBCKT BAS70-07V 1 3 4 6
*
R1 1 6 1.409E+09
D1 1 6 BAS70-07V
R2 4 3 1.409E+09
D2 4 3 BAS70-07V
*
.MODEL BAS70-07V D
+ IS = 3.22E-09 
+ N = 1.018     
+ BV = 77       
+ IBV = 1.67E-07
+ RS = 20.89    
+ CJO = 1.655E-12
+ VJ = 0.349    
+ M = 0.3583    
+ FC = 0.5      
+ TT = 0
+ EG = 0.69     
+ XTI = 2       
.ENDS
