*
.SUBCKT BAS40H 1 2
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 8E+08
D1 1 2 BAS40H
*
.MODEL BAS40H D
+ IS = 8.361E-09
+ N = 1.003
+ BV = 44
+ IBV = 8E-07
+ RS = 5.031
+ CJO = 3.8E-12
+ VJ = 0.1119
+ M = 0.2915
+ FC = 1
+ EG = 0.69
+ XTI = 2
.ENDS
*
