*
.SUBCKT BAS70H 1 2
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.409E+09
D1 1 2 BAS70H
*
.MODEL BAS70H D
+ IS = 3.22E-09 
+ N = 1.018     
+ BV = 77       
+ IBV = 1.67E-07
+ RS = 20.89    
+ CJO = 1.655E-12
+ VJ = 0.349    
+ M = 0.3583    
+ FC = 0.5      
+ EG = 0.69     
+ XTI = 2       
.ENDS
*
