*
.SUBCKT BAS40L 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 8E+08
D1 1 2 BAS40L
*
.MODEL BAS40-05V D 
+ IS = 9.114E-9 
+ N = 1.006 
+ BV = 45 
+ IBV = 7.8E-5 
+ RS = 4.563 
+ CJO = 3.895E-12 
+ VJ = 0.3192 
+ M = 0.4008 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*
