*
.SUBCKT BAS70L 1 2 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.409E+9 
D1 1 2 BAS70L 
*
.MODEL BAS70L D 
+ IS = 3.22E-9 
+ N = 1.018 
+ BV = 77 
+ IBV = 1.67E-7 
+ RS = 20.89 
+ CJO = 1.608E-12 
+ VJ = 0.3891 
+ M = 0.3683 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*
