*
.SUBCKT BAT54L 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3.6E+7 
D1 1 2 BAT54L
*
.MODEL BAT54L D 
+ IS = 2.117E-7 
+ N = 1.016 
+ BV = 36 
+ IBV = 1.196E-6 
+ RS = 2.637 
+ CJO = 1.114E-11 
+ VJ = 0.2013 
+ M = 0.3868 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2
.ENDS
*
