*
.SUBCKT BAT160S 1 2 3 4
*
* The resistors do not reflect 
* physical devices. Instead they
* improve modeling in the reverse 
* mode of operation.
*
R1 1 4 1E+7
D1 1 4 BAT160S
R1 4 3 1E+7
D1 4 3 BAT160S
*
.MODEL BAT160S D
+ IS = 5E-7
+ N = 0.9751
+ BV = 66
+ IBV = 0.0004
+ RS = 0.3422
+ CJO = 1.75E-10
+ VJ = 0.3761
+ M = 0.4725
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
