*
.SUBCKT BAT74V 1 3 4 6 
*
* The Resistors do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
*
D1 1 6 BAT74V 
R1 1 6 3.5E+07 
D2 4 3 BAT74V 
R2 4 3 3.5E+07
* 
.MODEL BAT74V D 
+ IS = 2.36E-07 
+ N = 1.009 
+ BV = 33 
+ IBV = 0.001 
+ RS = 2.633 
+ CJO = 9.53E-12 
+ VJ = 0.2034 
+ M = 0.3811 
+ FC = 0.6435 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*
