*
.SUBCKT PMEG2010AEB 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 2 1 1E+5
D1 2 1 PMEG2010AEB
*
.MODEL PMEG2010AEB D
+ IS = 8.724E-5
+ N = 0.9699
+ BV = 22
+ IBV = 0.0004
+ RS = 0.2728
+ CJO = 2.999E-11
+ VJ = 0.2604
+ M = 0.3755
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
