*
.SUBCKT PMEG6010AED 1 2 3 4 5 6
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 3 1 1E+7
D1 3 1 PMEG6010AED
*
* The resistors R2...R5 are only for 
* pinning of the device
*
R2 1 2 0
R3 3 4 0
R4 1 5 0
R5 1 6 0
*
.MODEL PMEG6010AED D
+ IS = 5E-7
+ N = 0.9751
+ BV = 66
+ IBV = 0.0004
+ RS = 0.3422
+ CJO = 1.75E-10
+ VJ = 0.3761
+ M = 0.4725
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
