*
.SUBCKT PMEG4005AEV 1 2 3 4 5 6
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 3 1 2.5E+6
D1 3 1 PMEG4005AEV
*
* The resistors R2...R5 are only for
* pinning of the device
*
R2 3 4 0
R31 2 0
R4 1 5 0
R5 1 6 0
*
.MODEL PMEG4005AEV D
+ IS = 2.831E-6
+ N = 0.9816
+ BV = 44
+ IBV = 5E-5
+ RS = 0.1975
+ CJO = 8.437E-11
+ VJ = 0.3116
+ M = 0.4789
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
