*
.SUBCKT PMEG2015EH 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.5E+6
D1 1 2 PMEG2015EH
*
.MODEL PMEG2015EH D
+ IS = 1.686E-06
+ N = 1.015
+ BV = 24
+ IBV = 0.001
+ RS = 0.1249
+ CJO = 6.969E-11
+ VJ = 0.4003
+ M = 0.4944
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
