*
.SUBCKT PMEG3005EH 1 2
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1.3E+6
D1 1 2 PMEG3005EH
*
.MODEL PMEG3005EH D
+ IS = 2.936E-6
+ N = 0.9839
+ BV = 33
+ IBV = 7.5E-5
+ RS = 0.1166
+ CJO = 1.068E-10
+ VJ = 0.3459
+ M = 0.4948
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
