*
.SUBCKT PMEG3020EH 1 2
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 2E+5
D1 1 2 PMEG3020EH
*
.MODEL PMEG3020EH D
+ IS = 1.05E-5
+ N = 0.998
+ BV = 33
+ IBV = 0.0004
+ RS = 0.08651
+ CJO = 1.189E-10
+ VJ = 0.3379
+ M = 0.4795
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
