*
.SUBCKT PMEG2020EJ 1 2
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 1E+6
D1 1 2 PMEG2020EJ
*
.MODEL PMEG2020EJ D
+ IS = 5.409E-6
+ N = 1.02
+ BV = 22
+ IBV = 5E-5
+ RS = 0.05676
+ CJO = 1.908E-10
+ VJ = 0.3408
+ M = 0.4863
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
