*
.SUBCKT PMEG4010EJ 1 2
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 2.5E+6
D1 1 2 PMEG4010EJ
*
.MODEL PMEG4010EJ D
+ IS = 2.831E-6
+ N = 0.9816
+ BV = 44
+ IBV = 5E-5
+ RS = 0.1975
+ CJO = 8.437E-11
+ VJ = 0.3116
+ M = 0.4789
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
