*
.SUBCKT PMEG2005EL 1 2 
*
* The resistor R1 does not 
* reflect a physical device. Instead it
* improves modelling in the reverse
* mode of operation.
*
D1 2 1 PMEG2005EL
R1 2 1 3E+6 
* 
.MODEL PMEG2005EL D 
+ IS = 9.985E-7 
+ N = 0.9283 
+ BV = 32 
+ IBV = 0.001 
+ RS = 0.2146 
+ CJO = 6.105E-11 
+ VJ = 0.1 
+ M = 0.4159 
+ FC = 0.5 
+ EG = 0.69 
+ XTI = 2 
.ENDS
