*
.SUBCKT PMEG1020EV 1 2 3 4 5 6
*
* The Resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
D1 1 2 PMEG1020EV
R1 1 2 1.2E+4
*
* The resistors R1...R4 are only for
* pinning of the device
*
R1 3 4 0
R2 1 2 0
R3 1 5 0
R4 1 6 0
*
.MODEL PMEG1020EV D
+ IS = 0.000259
+ N = 1.014
+ RS = 0.0635
+ BV = 12
+ IBV = 0.01
+ CJO = 2.553E-10
+ VJ = 0.0331
+ M = 0.3788
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
