*
.SUBCKT SBD PMEG3002TV 1 2 3 4 5 6 
*
* The Resistors do not 
* reflect physical devices. 
* Instead they improve modeling
* in the reverse mode of 
* operation.
*
R1 1 6 4.771E+06
D1 1 6 PMEG3002TV
R1 4 3 4.771E+06
D1 4 3 PMEG3002TV
*
.MODEL PMEG3002TV D
+ IS = 9.539E-07
+ N = 1.007
+ BV = 35
+ IBV = 4E-05
+ RS = 0.4678
+ CJO = 3.518E-11
+ VJ = 0.3193
+ M = 0.4687
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
